US07951822B2
c) Preparation of 4-bromo-2-propyl-3-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenol
To a solution of 4-bromo-3-(hydroxymethyl)-2-propylphenol (1.04 g, 4.24 mmol) in dichloromethane (50 mL), p-toluenesulfonic acid-hydrate (81 mg, 0.424 mmol) and 3,4-dihydro-2H-pyrane (535 mg, 6.36 mmol) were added at room temperature. The mixture was stirred at same temperature for 5 hours. The reaction solution was added with water and extracted with chloroform. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated in vacuum. The residue was purified by silica-gel column chromatography (hexane/ethyl acetate) and the title compound (972 mg, 70%) was obtained as colorless oil.

reactant | 4-bromo-3-(hydroxymethyl)-2-propylphenol | 4.24 mmol, 1.04 g | BrC1=C(C(=C(C=C1)O)CCC)CO | C10H13BrO2
reactant | p-toluenesulfonic acid-hydrate | 0.424 mmol, 81 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3,4-dihydro-2H-pyrane | 6.36 mmol, 535 mg | O1CCCC=C1 | C5H8O
reactant | water | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-bromo-2-propyl-3-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenol | 972 mg, 70% | BrC1=C(C(=C(C=C1)O)CCC)COC1OCCCC1 | C15H21BrO3
